US05298652
Sodium hydroxide hydrolysis of N-[3,5-bis(tetradecyloxy)benzoyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester as in Example 11 gave N-(carboxymethyl)-N-[3,5-bis(tetradecyloxy)benzoyl]glycine, mp 88°-90°.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | N-[3,5-bis(tetradecyloxy)benzoyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester | COC(CN(CC(=O)OC)C(C1=CC(=CC(=C1)OCCCCCCCCCCCCCC)OCCCCCCCCCCCCCC)=O)=O | C41H71NO7
product | N-(carboxymethyl)-N-[3,5-bis(tetradecyloxy)benzoyl]glycine | C(=O)(O)CN(CC(=O)O)C(C1=CC(=CC(=C1)OCCCCCCCCCCCCCC)OCCCCCCCCCCCCCC)=O | C39H67NO7
